US08877815B2
To a solution of (S)-3-(biphenyl-4-yl)-2-(tert-butoxycarbonylamino)propanoic acid (300 mg, 0.88 mmol) in DMF (1.5 mL) and DCM (1.5 mL) was added HATU (401 mg, 1.05 mmol) and triethylamine (0.37 mL, 2.64 mmol) followed by methylamine (0.46 mL, 0.91 mmol). The mixture was stirred at room temperature for 2 hours. The reaction mixture was quenched with sat NaHCO3 and extracted with EtOAc. The organic layer was washed with water (8 times), brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by TLC preparation plates using 3% 2N Ammonia in MeOH in DCM to give (S)-tert-butyl 3-(biphenyl-4-yl)-1-(methylamino)-1-oxopropan-2-ylcarbamate (111 mg). HPLC retention time=1.66 minutes (condition B); MS (m+1)=355.1; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.32 (s, 9H) 2.66 (d, J=4.8 Hz, 3H) 3.01 (d, J=6.3 Hz, 2H) 4.18-4.41 (m, 1H) 5.08 (br. s., 1H) 5.93 (d, J=4.3 Hz, 1H) 7.19 (d, J=8.1 Hz, 2H) 7.22-7.29 (m, 1H) 7.35 (t, J=7.6 Hz, 2H) 7.44 (d, J=8.1 Hz, 2H) 7.48 (d, J=7.3 Hz, 2H).

reactant | (S)-3-(biphenyl-4-yl)-2-(tert-butoxycarbonylamino)propanoic acid | 0.88 mmol, 300 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C20H23NO4
reactant | HATU | 1.05 mmol, 401 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 2.64 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | methylamine | 0.91 mmol, 0.46 mL | CN | CH5N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 3-(biphenyl-4-yl)-1-(methylamino)-1-oxopropan-2-ylcarbamate | 111 mg | C1(=CC=C(C=C1)C[C@@H](C(=O)NC)NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C21H26N2O3
